US07285563B2
2-(2-Morpholin-4-ylethoxy)-4-(trifluoromethyl)benzonitrile
To a solution of 2-nitro-4-trifluoromethyl benzonitrile (0.5 g, 2.3 mmol) and 2-morpholin-4-yl-ethanol (0.37 g, 0.34 ml, 2.8 mmol) in DMF (4 ml) was added dropwise a solution of KOH (0.23 g, 4.1 mmol) in water (1.5 ml). After 10 min the reaction was poured into ice water and the white crystalline product collected by filtration, washed with water and dried (0.5 g, 72%).

reactant | 2-nitro-4-trifluoromethyl benzonitrile | 2.3 mmol, 0.5 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F3N2O2
reactant | 2-morpholin-4-yl-ethanol | 2.8 mmol, 0.34 ml, 0.37 g | N1(CCOCC1)CCO | C6H13NO2
reactant | KOH | 4.1 mmol, 0.23 g | [OH-].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | 1.5 ml | O | H2O
product | 2-(2-Morpholin-4-ylethoxy)-4-(trifluoromethyl)benzonitrile | N1(CCOCC1)CCOC1=C(C#N)C=CC(=C1)C(F)(F)F | C14H15F3N2O2
